US07501406B2
4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide was alkylated using 4-methylsulphonylbenzyl bromide analogous to Example 1 to afford 4-chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-N-(4-methanesulfonylbenzyl)-benzenesulfonamide: MS: m/e=507.2 (MH+), 524.1(MNH4+).

reactant | 4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCC(C1)(F)F)=O | C12H13ClF2N2O3S
reactant | 4-methylsulphonylbenzyl bromide | CS(=O)(=O)C1=CC=C(CBr)C=C1 | C8H9BrO2S
product | 4-chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-N-(4-methanesulfonylbenzyl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)S(=O)(=O)C)[C@H]1C(NCCC(C1)(F)F)=O | C20H21ClF2N2O5S2
